US07585874B2
2-(5-Methyl-3-phenyl-isoxazol-4-yl)-imidazo[1,2-a]pyridine-6-carboxylic acid (tetrahydro-pyran-4-yl)-amide
As described for Example 17, 2-(5-methyl-3-phenyl-isoxazol-4-yl)-imidazo[1,2-a]pyridine-6-carboxylic acid (64 mg, 0.2 mmol), instead of 2-(5-methyl-3-phenyl-isoxazol-4-yl)-imidazo[1,2-a]pyridine-7-carboxylic acid, was converted to the title compound (61 mg, 76%) which was obtained as an off white solid. MS: m/e=403.5 [M+H]+.

reactant | 2-(5-methyl-3-phenyl-isoxazol-4-yl)-imidazo[1,2-a]pyridine-6-carboxylic acid | 0.2 mmol, 64 mg | CC1=C(C(=NO1)C1=CC=CC=C1)C=1N=C2N(C=C(C=C2)C(=O)O)C1 | C18H13N3O3
reactant | 2-(5-methyl-3-phenyl-isoxazol-4-yl)-imidazo[1,2-a]pyridine-7-carboxylic acid | CC1=C(C(=NO1)C1=CC=CC=C1)C=1N=C2N(C=CC(=C2)C(=O)O)C1 | C18H13N3O3
product | 2-(5-Methyl-3-phenyl-isoxazol-4-yl)-imidazo[1,2-a]pyridine-6-carboxylic acid (tetrahydro-pyran-4-yl)-amide | 61 mg, 76% | O1CCC(CC1)NC(=O)C=1C=CC=2N(C1)C=C(N2)C=2C(=NOC2C)C2=CC=CC=C2 | C23H22N4O3
